### PR TITLE
[Merged by Bors] - feat(Order/KrullDimension): equivalent conditions for zero-dimensional, one-dimensional etc

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -532,29 +596,44 @@ lemma krullDim_eq_top_of_infiniteDimensionalOrder [InfiniteDimensionalOrder α]
...
 
-lemma krullDim_nonpos_of_subsingleton [Subsingleton α] : krullDim α ≤ 0 := by
-  by_cases hα : Nonempty α
-  · have := uniqueOfSubsingleton (Classical.choice hα)
-    exact le_of_eq krullDim_eq_zero_of_unique
-  · have := not_nonempty_iff.mp hα
-    exact le_of_lt <| lt_of_eq_of_lt krullDim_eq_bot_of_isEmpty <|
-      Batteries.compareOfLessAndEq_eq_lt.mp rfl
+lemma krullDim_le_of_strictMono (f : α → β) (hf : StrictMono f) : krullDim α ≤ krullDim β :=
+  iSup_le <| fun p ↦ le_sSup ⟨p.map f hf, rfl⟩
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean:636]:
```suggestion
  iSup_le fun p ↦ le_sSup ⟨p.map f hf, rfl⟩
```

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
